US05207947
To a solution of 4-benzyloxybenzoic acid chloride (1.3 g) in methylene chloride (25 ml) was slowly added under ice cooling a solution of optically active 1-monofluoro-2-decanol (1.0g, [α]D20 =-7.2) and triethylamine (0.5 g) in methylene chloride (25 ml). The mixture was left to stand until it reached room temperature and stirred for 12 hours. The mixture was poured in ice water and extracted with methylene chloride. The extracted layer was washed with dilute aqueous hydrochloric acid solution, water, 1N aqueous sodium carbonate solution and water, in this order, and dehydrated over anhydrous magnesium sulfate. The solution was distilled under reduced pressure to remove the solvent until a crude product was obtained. The product was subjected to silica-gel column chromatography to obtain 1-monofluoro-2-decyl 4-benzyloxybenzoate (0.78 g). The benzoate and 10% palladium carried on carbon (0.13 g) were added to ethanol and then subjected to de-benzylation under a hydrogen atmosphere to obtain 1-monofluoro-2-decyl-4-hydroxybenzoate (0.6 g).

reactant | 4-benzyloxybenzoic acid chloride | 1.3 g | C(C1=CC=CC=C1)OC1=CC=C(C(=O)Cl)C=C1 | C14H11ClO2
reactant | 1-monofluoro-2-decanol | 1.0g | FCC(CCCCCCCC)O | C10H21FO
reactant | triethylamine | 0.5 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 1-monofluoro-2-decyl 4-benzyloxybenzoate | 0.78 g | C(C1=CC=CC=C1)OC1=CC=C(C(=O)OC(CF)CCCCCCCC)C=C1 | C24H31FO3
